US05217843
N-trichloroacetyl-N'-3-hydroxypropylurea
3.75 g of 3-aminopropanol are dissolved in a mixture of 10 g of water and 10 g of acetone. 9.4 g of trichloroacetyl isocyanate are subsequently added dropwise. After a slightly exothermic reaction, the mixture is stirred for 1 hour at room temperature, then refluxed for 2.5 hours. Concentration in a rotary evaporator gives 7.7 g of an oily phase, which is taken up in acetone and subjected to column chromatography on silica gel using cyclohexane/ethyl acetate (1:1) as eluent.

reactant | 3-aminopropanol | 3.75 g | NCCCO | C3H9NO
reactant | trichloroacetyl isocyanate | 9.4 g | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | water | 10 g | O | H2O
solvent | acetone | 10 g | CC(=O)C | C3H6O
product | N-trichloroacetyl-N'-3-hydroxypropylurea | 7.7 g | ClC(C(=O)NC(=O)NCCCO)(Cl)Cl | C6H9Cl3N2O3
